US08247556B2
5,5-Dimethyl-8-nitro-2,3,4,5-tetrahydro-1H-benzo[b]azepine (350 mg, 1.6 mmol) was dissolved in MeOH. The atmosphere was replaced by Argon and a catalytic amount of Pd/C was added. The atmosphere was replaced by H2 and the reaction was stirred for 72 h at RT. The Pd/C was filtered and the MeOH was removed to give 5,5-dimethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-8-ylamine.

reactant | 5,5-Dimethyl-8-nitro-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 1.6 mmol, 350 mg | CC1(C2=C(NCCC1)C=C(C=C2)[N+](=O)[O-])C | C12H16N2O2
solvent | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 5,5-dimethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-8-ylamine | CC1(C2=C(NCCC1)C=C(C=C2)N)C | C12H18N2
